US04147864
15 ml of pre-cooled 0.1 N potassium hydroxide solution are added, whilst stirring, to a solution prepared at 0° C., of 454 mg (1 mmol) of an approx. 3:1 mixture of 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid benzyl ester and 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid benzyl ester in 30 ml of tetrahydrofurane. The mixture is stirred for a further 5 minutes at 0° C., 100 of ice water and 100 ml of pre-cooled methylene chloride are then added and the whole is stirred vigorously. Addition of a little saturated aqueous sodium chloride solution causes the mixture to separate into two phases. The methylene chloride phase is separated off and the aqueous phase is washed with a further 30 ml of methylene chloride. The aqueous phase is covered with 50 ml of methylene chloride, 10 ml of 2 N hydrochloric acid are added and the mixture is thoroughly shaken. After separating off the organic phase, the aqueous phase is extracted twice more with 30 ml of methylene chloride at a time. The combined methylene chloride extracts are dried over sodium sulphate and concentrated by evaporation in vacuo. The resulting white foam crystallises on addition of chloroform and diethyl ether and gives 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid of melting point 142° C. (decomposition). IR spectrum (KBr): characteristic bands at 5.65, 5.75 and 5.95 μ.

reactant | potassium hydroxide | 0.1 N | [OH-].[K+]
reactant | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)OC | C23H22N2O6S
reactant | 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)OC | C23H22N2O6S
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N([C@H](C(=CS2)OC)C(=O)O)C1=O | C16H16N2O6S
